US06288082B1
4-(1H-Indol-5-ylamino)-6-nitro-quinoline-3-carbonitrile
A mixture of 5.00 g (21.5 mmol) 4-chloro-6-nitro-3-quinolinecarbonitrile, 200 ml ethanol, and 3.40 g (25.8 mmol) 5-aminoindole was heated to reflux under N2 for 3.5 hours. Removed heat, made basic with saturated sodium bicarbonate and stripped solvents, azeotroping with ethanol. Collected solids and washed with hexane, then water. Dissolved solids in 200 ml ethyl acetate, added Darco and filtered. Stripped solvent and dried in vacuo overnight (50° C.). Washed twice more with ether to removed starting material aminoindole. 4.372 g of red-brown solid: mass spectrum (m/e electrospray): M+H=330.2.

reactant | 4-chloro-6-nitro-3-quinolinecarbonitrile | 21.5 mmol, 5.00 g | ClC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C10H4ClN3O2
reactant | 5-aminoindole | 25.8 mmol, 3.40 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(1H-Indol-5-ylamino)-6-nitro-quinoline-3-carbonitrile | N1C=CC2=CC(=CC=C12)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C18H11N5O2
